US06110962
lodomethane (0.086 mL, 1.38 mmol) was added dropwise to a room temperature, stirred light suspension of a mixture [3-bromo-5-(6-bromo-benzo [b]naphtho[2,3-d]thiophen-11-yl)-2-benzyloxy-phenol (87% pure, contaminated with 2-bromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-6-benzyloxy-phenol (13%), 0.271 g, 0.46 mmol), potassium carbonate (0.191 g, 1.38 mmol) in DMF (2 mL) over a period of twenty minutes. After the mixture was stirred at ambient temperature for 3 h., the reaction mixture was quenched with aqueous hydrochloride to pH 1 and further diluted with water (40 mL) and aqueous mixture was extracted with methylene chloride (80 mL). The organic extract was washed with water, dried with brine and anhydrous MgSO4, and concentrated to provide a mixture (279 mg, 100%) of 11-(3-methoxy-4-benzyloxy-5-bromo-phenyl)-6-bromo-benzo [b]naphtho [2,3-d ]thiophene (87%) and 11-(4-methoxy-3-benzyloxy-5-bromo-phenyl)-6-bromo-benzo [b]naphtho[2,3-d]thiophene(13%). This mixture was used for next reaction without separation. A solution of a this mixture (279 mg, 0.49 mmol) and 10% palladium on carbon (28 mg) in ethyl acetate: ethanol (1.5:10, 15 mL) was hydrogenated in a Parr vessel at 51 psi at ambient temperature for 6 h. The reaction mixture was filtered through a bed of Solka Floc and washed with hot ethyl acetate: ethanol (1.5:10). Silica gel (5 mL) was added to the filtrate. Solvent was removed and the adsorbate was flash chromatographed (eluents:petroleum ether:methylene chloride 6:4 to petroleum ether:ethyl acetate 7:3) to provide a white solid (145 mg) that contained about 73% 2-bromo-4-(benzo[b]naphtho[2,3-d]thiophen-11-yl)-6-methoxy-phenol and 27% of the title compound. The bromine was re-introduced to the 6 position of the majority (73%) of the crude according to the procedures outlined by methods in Examples 34 (acetylation of the phenol), Example 37 (bromination in the 6 position) and Example 41 (saponification of the acetyl moiety) to provide the title compound as a white solid: mp 216-218° C.; NMR (CDCl3); δ8.36 (d, J=8 Hz, 1 H), 7.83 (d, J=8 Hz, 1 H), 7.68-7.64 (m, 2 H), 7.50-7.43 (m, 2 H), 7.21 (d, J=2 Hz, 1 H), 7.18 (d, J=8 Hz, 1H), 6.93 (d, J=8 Hz, 1 H), 6.87 (d, J=8 Hz, 1H), 6.20 (s, 1 H), 3.86 (s, 3 H); MS (+FAB): [M+], 2 bromine isotope pattern; 512.

reactant | 3-bromo-5-(6-bromo-benzo [b]naphtho[2,3-d]thiophen-11-yl)-2-benzyloxy-phenol | 0.46 mmol, 0.271 g | BrC=1C(=C(C=C(C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)O)OCC1=CC=CC=C1 | C29H18Br2O2S
reactant | potassium carbonate | 1.38 mmol, 0.191 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 11-(3-methoxy-4-benzyloxy-5-bromo-phenyl)-6-bromo-benzo [b]naphtho [2,3-d ]thiophene | 279 mg | COC=1C=C(C=C(C1OCC1=CC=CC=C1)Br)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br | C30H20Br2O2S
